US08304419B2
Step A: methyl 1H-imidazol-4-ylacetate
Thionyl chloride (3 mL, 41.1 mmol) was added slowly over the course of 30 mins to a 0° C. solution of imidazole acetic acid sodium salt (1.84 g, 10.0 mmol) in MeOH (40 mL) and the solution was stirred at RT overnight and evaporated. Aqueous NH4OH was slowly added and the solution was extracted with 9:1 CH2Cl2:MeOH to provide the title compound (1.18 g, 84%) as a yellow oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.69 (d, J=5.22 Hz, 1H), 7.02 (br. s., 1H), 3.63-3.82 (m, 5H).

reactant | Thionyl chloride | 41.1 mmol, 3 mL | S(=O)(Cl)Cl | Cl2OS
reactant | imidazole acetic acid sodium | 10.0 mmol, 1.84 g | [Na].C(C)(=O)O.N1C=NC=C1
reactant | MeOH | 40 mL | CO | CH4O
product | methyl 1H-imidazol-4-ylacetate | 1.18 g, 84% | N1C=NC(=C1)CC(=O)OC | C6H8N2O2
